US04271157
(c) 2-Amino-α-[(1H-imidazole-2-yl-methoxy)imino]-4-thiazole acetic acid, hydrochloride (1:2) (Z)
2 g of 2-[(aminoxy)methyl]-1H-imidazolehydrochloride (1:2) from example 1(b) and 2.24 g 2-amino-thiazol-4-glyoxylic acid are suspended with stirring in 50 ml H2O. The pH is adjusted with potassium carbonate to 6 and stirring is continued for 12 hours. The pH is then adjusted to 6.4 with hydrochloric acid. After 2 hours 0.8 of crystalline 2-amino-α-[(1H-imidazol-2-yl-methoxy)imino]-4-thiazole acetic acid hydrochloride (1:2) is filtered off with a melting point of 158°-160° C. (dec.).

reactant | 2-[(aminoxy)methyl]-1H-imidazolehydrochloride | 2 g | Cl.O(N)CC=1NC=CN1
reactant | 2-amino-thiazol-4-glyoxylic acid | 2.24 g | NC=1SC=C(N1)C(C(=O)O)=O | C5H4N2O3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | H2O | 50 ml | O | H2O
product | 2-Amino-α-[(1H-imidazole-2-yl-methoxy)imino]-4-thiazole acetic acid, hydrochloride | Cl.NC=1SC=C(N1)C(C(=O)O)=NOCC=1NC=CN1 | InChI=1S/C9H9N5O3S.ClH/c10-9-13-5(4-18-9)7(8(15)16)14-17-3-6-11-1-2-12-6;/h1-2,4H,3H2,(H2,10,13)(H,11,12)(H,15,16);1H
